US07915424B2
3-(4-Fluoro-3-methoxyphenylethynyl)-5-methoxypyridine
Dissolve 1-fluoro-4-iodo-2-methoxybenzene, (prepared as described in PREPARATION 47), (1.0 g, 4.0 mmol) in triethylamine (15 mL, 108 mmol) and add 3-ethynyl-5-methoxypyridine, (prepared as described in PREPARATION 10), (500 mg, 3.8 mmol) followed by bis(triphenylphosphine)palladium (II) dichloride (100 mg, 0.14 mmol) and copper (I) iodide (60 mg, 0.32 mmol). Stir for 18 h at room temperature, concentrate and purify by silica gel chromatography, eluting with 3:1 hexanes:ethyl acetate. Further purify on silica gel, eluting with 9:1 dichloromethane:ethyl acetate, to give the title compound as a white solid (650 mg, 65%).

reactant | 1-fluoro-4-iodo-2-methoxybenzene | 4.0 mmol, 1.0 g | FC1=C(C=C(C=C1)I)OC | C7H6FIO
reactant | triethylamine | 108 mmol, 15 mL | C(C)N(CC)CC | C6H15N
reactant | 3-ethynyl-5-methoxypyridine | 3.8 mmol, 500 mg | C(#C)C=1C=NC=C(C1)OC | C8H7NO
catalyst | bis(triphenylphosphine)palladium | 0.14 mmol, 100 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.32 mmol, 60 mg | [Cu]I
product | 3-(4-Fluoro-3-methoxyphenylethynyl)-5-methoxypyridine | 650 mg, 65% | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C1)OC)OC | C15H12FNO2
